US09034866B2
Synthesis of ethyl 9-iodo-3-((1-methyl-1H-indazol-3-yl)methyl)-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate
To a mixture of ethyl 9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate (150 mg, 0.38 mmol), potassium carbonate (79 mg, 0.57 mmol) and sodium iodide (114 mg, 0.76 mmol) was introduced a solution of 3-(chloromethyl)-1-methyl-1H-indazole (137 mg, 0.76 mmol) in N,N-dimethylformamide (5 mL). After warming to 50° C. for 2 hr the reaction mixture was evaporated in vacuo. The residue was suspended in ethyl acetate (40 mL), washed with saturated aqueous sodium bicarbonate (15 mL). After washing the basic aqueous extract with ethyl acetate (3×10 ml), all the organic extracts were combined, washed with water (15 mL) and brine (15 mL), and dried over sodium sulfate. Following filtration of the ethyl acetate extract, the filtrate was evaporated onto silica gel in vacuo. The dry-loaded material was purified by silica gel flash column chromatography (eluent: heptanes/ethyl acetate gradient) to furnish the title compound (198 mg, 0.37 mmol, 97%) as a colorless solid: 1H NMR (500 MHz, CDCl3) δ1.48 (t, J=7.2 Hz, 3H), 1.55-1.57 (m, 2H), 2.79 (dq, J=8.2, 2.8 Hz, 2H), 3.53 (td, J=7.9, 3.8 Hz, 1H), 3.73 (td, J=7.6, 4.1 Hz, 1H), 3.99 (s, 3H), 4.50 (q, J=7.2 Hz, 2H), 6.13 (s, 2H), 6.77 (d, J=7.8 Hz, 1H), 7.05 (ddd, J=7.9, 6.3, 1.3 Hz, 1H), 7.32-7.34 (m, 3H), 7.41 (dd, J=7.9, 1.9 Hz, 1H), 8.89 (s, 1H); M+H=539.

reactant | ethyl 9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate | 0.38 mmol, 150 mg | IC=1C=CC2=C(C3=C(NC(=N3)C(=O)OCC)C3CC2C3)C1 | C16H15IN2O2
reactant | potassium carbonate | 0.57 mmol, 79 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.76 mmol, 114 mg | [I-].[Na+]
reactant | 3-(chloromethyl)-1-methyl-1H-indazole | 0.76 mmol, 137 mg | ClCC1=NN(C2=CC=CC=C12)C | C9H9ClN2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | ethyl 9-iodo-3-((1-methyl-1H-indazol-3-yl)methyl)-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate | 0.37 mmol, 198 mg, 97% | IC=1C=CC2=C(C3=C(N(C(=N3)C(=O)OCC)CC3=NN(C4=CC=CC=C34)C)C3CC2C3)C1 | C25H23IN4O2
